* 5-stage CMOS ring oscillator — a non-trivial nonlinear circuit.
*
* DC OP must converge at the metastable equilibrium V_M ≈ VDD/2 with all
* 10 MOSFETs cooperatively balanced.  Under transient with an asymmetric
* `.ic` seed the loop oscillates at frequency f = 1/(2·N·t_pd), where
* t_pd is the per-stage delay set by C_load / I_drive.
*
* Try:
*   fairchild -f ring_oscillator.sp --format csv -o /tmp/osc.csv \
*             --probe "v(n1),v(n2),v(n3),v(n4),v(n5)"
*   gnuplot -p -e "set datafile separator ','; plot '/tmp/osc.csv' \
*                  using 1:2 with lines title 'n1', \
*                       '' using 1:3 with lines title 'n2'"

.model nm NMOS (vto=0.5 kp=200u lambda=0.05)
.model pm PMOS (vto=-0.5 kp=80u lambda=0.05)
Vdd vdd 0 DC 1.8

Mn1 n1 n5 0   0   nm w=10u l=1u
Mp1 n1 n5 vdd vdd pm w=20u l=1u
C1  n1 0 100f

Mn2 n2 n1 0   0   nm w=10u l=1u
Mp2 n2 n1 vdd vdd pm w=20u l=1u
C2  n2 0 100f

Mn3 n3 n2 0   0   nm w=10u l=1u
Mp3 n3 n2 vdd vdd pm w=20u l=1u
C3  n3 0 100f

Mn4 n4 n3 0   0   nm w=10u l=1u
Mp4 n4 n3 vdd vdd pm w=20u l=1u
C4  n4 0 100f

Mn5 n5 n4 0   0   nm w=10u l=1u
Mp5 n5 n4 vdd vdd pm w=20u l=1u
C5  n5 0 100f

.ic V(n1)=1.6 V(n2)=0.1 V(n3)=1.6 V(n4)=0.1 V(n5)=1.6

.options method=gear
.tran 50p 50n UIC
