.title KiCad schematic
V2 /Vmod GND DC 0 SIN( 0 1 1Meg 0 0 0 ) AC 1  
PD1 /PN_MRM/out VDD Net-_PD1-cathode_ type=X model=fc_photodetector responsivity=0.7 i_dark_a=1e-9 r_shunt=20k
CWL1 /PN_MRM/in type=X model=fc_cw_laser power_mW=1.0 wavelength_nm=1550.0
R1 Net-_PD1-cathode_ GND 1k
V1 VDD GND DC 2 
CPL1 Net-_CPL1-a1_ Net-_CPL1-a2_ Net-_CPL1-b1_ Net-_CPL1-b2_ type=X model=fc_dcoupler kappa_L=0.05
PS_PN1 Net-_CPL1-b2_ Net-_CPL1-a2_ GND /Vmod type=X model=fc_pn_ps l_um=8u n_g=4.2 alpha_dB_cm=1.0 V_pi_L=1.0
WG2 Net-_CPL1-b1_ /PN_MRM/out type=X model=fc_waveguide l_um=100 n_g=4.2 alpha_dB_cm=1.0
WG1 /PN_MRM/in Net-_CPL1-a1_ type=X model=fc_waveguide l_um=100 n_g=4.2 alpha_dB_cm=1.0
.end
