.title KiCad schematic
XMUX1 IN_OPT Net-_MUX1-ch_0_ Net-_MUX1-ch_1_ fc_mux
PD2 DROP_OPT VDD V_DROP type=X model=fc_photodetector responsivity=0.7 i_dark_a=1e-9 r_shunt=20k
R2 V_DROP GND 1k
CWL1 Net-_CWL1-out_ type=X model=fc_cw_laser power_mW=1.0 wavelength_nm=1550.0
CWL2 Net-_CWL2-out_ type=X model=fc_cw_laser power_mW=1.0 wavelength_nm=1550.0
MZM1 Net-_CWL1-out_ Net-_MUX1-ch_0_ /Vmzm1 GND type=X model=fc_mzm V_pi=1.0 f_c=10e9 alpha_dB=0.0 e_r_dB=20.0
MZM2 Net-_CWL2-out_ Net-_MUX1-ch_1_ /Vmzm2 GND type=X model=fc_mzm V_pi=1.0 f_c=10e9 alpha_dB=0.0 e_r_dB=20.0
R1 V_THRU GND 1k
PD1 THRU_OPT VDD V_THRU type=X model=fc_photodetector responsivity=0.7 i_dark_a=1e-9 r_shunt=20k
V3 /Vmzm1 GND DC 1 SIN( 1 1 2Meg 0 0 0 ) AC 1  
V1 VDD GND DC 2 
V4 /Vmzm2 GND DC 1.5 SIN( 1.5 1 2Meg 0 0 0 ) AC 1  
V2 /Vmod GND DC 2 SIN( 2 2 1Meg 0 0 0 ) AC 1  
CPL2 Net-_CPL2-a1_ Net-_CPL2-a2_ Net-_CPL2-b1_ Net-_CPL2-b2_ type=X model=fc_dcoupler kappa_L=0.05
WG4 ADD_OPT Net-_CPL2-a2_ type=X model=fc_waveguide l_um=100 n_g=4.2 alpha_dB_cm=1.0
CPL1 Net-_CPL1-a1_ Net-_CPL1-a2_ Net-_CPL1-b1_ Net-_CPL1-b2_ type=X model=fc_dcoupler kappa_L=0.05
WG1 IN_OPT Net-_CPL1-a1_ type=X model=fc_waveguide l_um=100 n_g=4.2 alpha_dB_cm=1.0
PS_PN2 Net-_CPL2-b1_ Net-_CPL1-a2_ GND /Vmod type=X model=fc_pn_ps L_m=25e-6 n_g=4.2 alpha_dB_cm=1.0 V_pi_L=1.0
WG3 Net-_CPL2-b2_ DROP_OPT type=X model=fc_waveguide l_um=100 n_g=4.2 alpha_dB_cm=1.0
PS_PN1 Net-_CPL1-b2_ Net-_CPL2-a1_ GND /Vmod type=X model=fc_pn_ps L_m=25e-6 n_g=4.2 alpha_dB_cm=1.0 V_pi_L=1.0
WG2 Net-_CPL1-b1_ THRU_OPT type=X model=fc_waveguide l_um=100 n_g=4.2 alpha_dB_cm=1.0
