.title KiCad schematic
PD8 Net-_GC3-out_ VDD V_DROP type=X model=fc_photodetector responsivity=0.7 i_dark_a=1e-9 r_shunt=20k
R8 V_DROP GND 1k
GC3 DROP_OPT Net-_GC3-out_ type=X model=fc_grating_coupler alpha_dB=6.5
PD9 Net-_GC2-out_ VDD V_THRU type=X model=fc_photodetector responsivity=0.7 i_dark_a=1e-9 r_shunt=20k
GC2 THRU_OPT Net-_GC2-out_ type=X model=fc_grating_coupler alpha_dB=6.5
R9 V_THRU GND 1k
V12 /Vmod1 GND DC 0 
V13 /Vmod2 GND DC 0 
GC1 Net-_CWL6-out_ IN_OPT type=X model=fc_grating_coupler alpha_dB=6.5
V11 VDD GND DC 2 
CWL6 Net-_CWL6-out_ type=X model=fc_cw_laser power_mW=1.0 wavelength_nm=1549.95
WG26 Net-_CPL13-b2_ DROP_OPT type=X model=fc_waveguide l_m=304.5e-6 n_g=4.2 alpha_dB_cm=1.0
WG25 IN_OPT Net-_CPL14-a1_ type=X model=fc_waveguide l_m=304.5e-6 n_g=4.2 alpha_dB_cm=1.0
PS_PN_TH13 Net-_CPL13-b1_ Net-_CPL14-a2_ GND /Vmod Net-_PS_PN_TH13-heat_p_ GND type=X model=fc_pn_th_ps n_g=4.2 l_m=25.1327412287e-6 R_heater=200 V_pi_L=0.02  alpha_dB_cm=10
CPL13 Net-_CPL13-a1_ Net-_CPL13-a2_ Net-_CPL13-b1_ Net-_CPL13-b2_ type=X model=fc_dcoupler kappa_L=0.0769
CPL14 Net-_CPL14-a1_ Net-_CPL14-a2_ Net-_CPL14-b1_ Net-_CPL14-b2_ type=X model=fc_dcoupler kappa_L=0.0769
WG27 Net-_CPL14-b1_ THRU_OPT type=X model=fc_waveguide l_m=304.5e-6 n_g=4.2 alpha_dB_cm=1.0
PS_PN_TH14 Net-_CPL14-b2_ Net-_CPL13-a1_ GND /Vmod /Vheat Net-_PS_PN_TH13-heat_p_ type=X model=fc_pn_th_ps n_g=4.2 l_m=25.1327412287e-6 R_heater=200 V_pi_L=0.02  alpha_dB_cm=10
WG28 ADD_OPT Net-_CPL13-a2_ type=X model=fc_waveguide l_m=304.5e-6 n_g=4.2 alpha_dB_cm=1.0
